US04173633
The starting material is prepared as follows: 105 ml of a 1.1 M solution of alane-triethylamine in benzene are added dropwise to the solution of 31.2 g of 1-(2-methyl-1,3-dioxolan-2-yl-methyl)-9-methoxy-3-methyl-3,4,5,5a,6,7-hexahydro-2H-naphth-[1,2-d]azepin-2-one in 200 ml of anhydrous tetrahydrofuran at 0°. The mixture is stirred at 0° for 4 hours whereupon 44 ml of water are added slowly, followed by 88 ml of 3 N aqueous sodium hydroxide at 0°. The resulting mixture is extracted with diethyl ether, the extract dried and evaporated to give the 1-(2-methyl-1,3-dioxolan-2-yl-methyl)-9-methoxy-3-methyl-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepine.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-(2-methyl-1,3-dioxolan-2-yl-methyl)-9-methoxy-3-methyl-3,4,5,5a,6,7-hexahydro-2H-naphth-[1,2-d]azepin-2-one | 31.2 g | CC1(OCCO1)CC=1C(N(CCC2C1C1=CC=C(C=C1CC2)OC)C)=O | C21H27NO4
reactant | water | 44 ml | O | H2O
reactant | sodium hydroxide | 3 N, 88 ml | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(2-methyl-1,3-dioxolan-2-yl-methyl)-9-methoxy-3-methyl-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepine | CC1(OCCO1)CC=1CN(CCC2C1C1=CC=C(C=C1CC2)OC)C | C21H29NO3
